US07304161B2
To a round bottom flask equipped with magnetic stirring and a reflux condenser was added 3,4-dihydroxy-2-methylbenzoic acid (23.3 g, 139 mmol), methanol (139 mL), and concentrated sulfuric acid (0.77 mL, 13.9 mmol). This mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature and the methanol evaporated. The residue was taken up in ether and washed once with saturated sodium bicarbonate solution, once with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated to give a brown solid, methyl-3,4-dihydroxy-2-methylbenzoate, (20.9 g, 114 mmol) in 83% yield. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 2.47 (s, 3H), 3.79 (s, 3H), 6.78 (d, 1H), 7.46 (d, 1H); TLC: Rf=0.54 (1:1 ethyl acetate/hexane).

reactant | 3,4-dihydroxy-2-methylbenzoic acid | 139 mmol, 23.3 g | OC=1C(=C(C(=O)O)C=CC1O)C | C8H8O4
reactant | sulfuric acid | 13.9 mmol, 0.77 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 139 mL | CO | CH4O
product | methyl-3,4-dihydroxy-2-methylbenzoate | 114 mmol, 20.9 g, 83% yield | COC(C1=C(C(=C(C=C1)O)O)C)=O | C9H10O4
